US07001914B2
(R)-N-(1-Azabicyclo[2.2.2]oct-3-yl)(5-(4-chlorophenyl)furan-2-carboxamide)
Prepared by a method analogous to that described in Example 1 from (R)-1-azabicyclo[2.2.2]oct-3-ylamine dihydrochloride and 5-(4-chlorophenyl)furoic acid; the compound was purified by chromatography on silica gel using ammoniated methanol/chloroform mixtures as the eluent; MS (ES+) 331, 333 (MH+).

reactant | (R)-1-azabicyclo[2.2.2]oct-3-ylamine dihydrochloride | Cl.Cl.N12C[C@@H](C(CC1)CC2)N
reactant | 5-(4-chlorophenyl)furoic acid | ClC1=CC=C(C=C1)C1=CC=C(O1)C(=O)O | C11H7ClO3
product | (R)-N-(1-Azabicyclo[2.2.2]oct-3-yl)(5-(4-chlorophenyl)furan-2-carboxamide) | N12C[C@@H](C(CC1)CC2)NC(=O)C=2OC(=CC2)C2=CC=C(C=C2)Cl | C18H19ClN2O2
